US06130238
5-Butyl-2-oxindole
Triethylsilane (2.3 g) was added to 2 g 4-butanoyl-2-oxindole in 20 mL of trifluoroacetic acid at room temperature and the solution stirred for 3 hours. The reaction was poured into ice water to give a red oil which solidified after standing. The solid was collected by vacuum filtration, washed with water and hexane and dried to give 1.7 g (91% yield) of the title compound as an off-white solid.

reactant | Triethylsilane | 2.3 g | C(C)[SiH](CC)CC | C6H16Si
reactant | 4-butanoyl-2-oxindole | 2 g | C(CCC)(=O)C1=C2CC(NC2=CC=C1)=O | C12H13NO2
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Butyl-2-oxindole | 1.7 g, 91% yield | C(CCC)C=1C=C2CC(NC2=CC1)=O | C12H15NO
